US04636570
Molten zinc chloride (0.22 g), trimethylhydroquinone (2.47 g) and anhydrous dioxane (10 cc) are introduced into a 250 cc reactor. The mixture is heated to 40°-45° C. and a solution of 1,7,11,15-tetrachloro-3,7,11,15-tetramethyl-hexadec-2-ene (6.8 g) in dioxane (7 cc) is then added over the course of 20 minutes. Stirring is continued for 1 hour 30 minutes. The reaction mixture is poured into an aqueous solution (50 cc) of ammonium chloride (100 g/liter). The batch is extracted with ethyl acetate (twice 50 cc) and the organic phases are then dried over magnesium sulphate. After filtration and evaporation of the solvent, 2,5,7,8-tetramethyl-2-(4',8',12'-trichloro-4',8',12'-trimethyltridecyl)-chroman-6-ol is obtained in a yield of 43.5%.

reactant | trimethylhydroquinone | 2.47 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | 1,7,11,15-tetrachloro-3,7,11,15-tetramethyl-hexadec-2-ene | 6.8 g | ClCC=C(CCCC(CCCC(CCCC(C)(C)Cl)(C)Cl)(C)Cl)C | C20H36Cl4
reactant | ammonium chloride | 50 cc | [Cl-].[NH4+]
solvent | dioxane | 7 cc | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 0.22 g | [Cl-].[Zn+2].[Cl-]
solvent | dioxane | 10 cc | O1CCOCC1 | C4H8O2
product | 2,5,7,8-tetramethyl-2-(4',8',12'-trichloro-4',8',12'-trimethyltridecyl)-chroman-6-ol | yield of 43.5% | CC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)CCCC(CCCC(CCCC(C)(C)Cl)(C)Cl)(C)Cl | C29H47Cl3O2
